US07294633B2
8a2: 4-hydroxy-6-(4-nitrophenyl)furo[2,3-d]pyrimidine:
21 g of 4-hydroxy-6-(4-nitrophenyl)furo[2,3-d]pyrimidine-5-carboxylic acid are dissolved in ca. 200 ml of pyridine whilst heating, and subsequently concentrated by evaporation at 80° C. The residue is heated to 190° C. for 1 h, with a constant stream of nitrogen, in 500 ml of quinoline, which has been dried over magnesium sulfate, with 1 g of Cu2O (Aldrich, Buchs). The reaction mixture is allowed to cool and is added to 1 litre of 2.5 M hydrochloric acid, stirred and filtered by suction. The residue is washed with conc. ammonia solution and with H2O. The dark brown residue is dried in a HV: m.p.: >350° C.

reactant | 4-hydroxy-6-(4-nitrophenyl)furo[2,3-d]pyrimidine-5-carboxylic acid | 21 g | OC=1C2=C(N=CN1)OC(=C2C(=O)O)C2=CC=C(C=C2)[N+](=O)[O-] | C13H7N3O6
solvent | pyridine | ca. 200 ml | N1=CC=CC=C1 | C5H5N
product | 4-hydroxy-6-(4-nitrophenyl)furo[2,3-d]pyrimidine | OC=1C2=C(N=CN1)OC(=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C12H7N3O4
